US05091539
Dimethylsulfoxide (8.46 g) was mixed with methylene chloride (35 ml) and cooled to -76° C. with stirring and after dropwise addition of a diluted solution of trifluoroacetic anhydride (19.71 g) in methylene chloride (10 ml), stirred for 1 hour. A solution of of 2-imidazolylcyclohexanol (IVa) (12.0 g) in methylene chloride (100 ml) was added dropwise thereto for 10 minutes. The mixture was made to react at -76°--20° C. for 1.5 hours, cooled to -55° C. and after dropwise addition of triethylamine (30 ml) at -55° C., stirred for 1 hour at -55° C. After addition of a 5% sodium hydroxide solution, the mixture was extracted with methylene chloride. The extract was washed with water, dried and evaporated. The residue was applied to column chromatography on slica gel (100 g). From Chloroform-methanol (100:1) fraction, 2-imidazolyl cyclohexanone (IIa) (2.3 g) was obtained. Mp. 104°-105° C.

reactant | Dimethylsulfoxide | 8.46 g | CS(=O)C | C2H6OS
reactant | trifluoroacetic anhydride | 19.71 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-imidazolylcyclohexanol | 12.0 g | N1C(=NC=C1)C1C(CCCC1)O | C9H14N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | 2-imidazolyl cyclohexanone | 2.3 g | N1C(=NC=C1)C1C(CCCC1)=O | C9H12N2O
